US08530647B2
100 g of 10-methoxycarbamazepine in 1000 ml water and 69.24 g of oxalic acid solution were heated to 90° C. and maintained for about 17 hrs. After completion of the reaction the reaction mixture was cooled to room temperature (RT). The resulting reaction mass was filtered and washed with 1000 ml of DM water. The wet material obtained was charged with isopropyl alcohol and DM water. The obtained reaction mixture was heated to reflux for about 2 h. The reaction mixture was cooled to 15-25° C., filtered and washed with 100 ml of IPA-water mixture. The resulting compound is dried at 60° C. for 6 h to produce 90 g of Oxcarbazepine.

reactant | 10-methoxycarbamazepine | 100 g | COC1=CC2=CC=CC=C2N(C3=CC=CC=C31)C(=O)N | C16H14N2O2
reactant | oxalic acid | 69.24 g | C(C(=O)O)(=O)O | C2H2O4
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | water | 1000 ml | O | H2O
product | Oxcarbazepine | 90 g | C=1C=CC2=C(C1)CC(=O)C=3C=CC=CC3N2C(=O)N | C15H12N2O2
